US07037908B2
N-(2-(methylthio)benzyl)-2-(2,6-difluorophenyl)-5-hydroxy-1-methyl-6-oxo-1,6-dihydropyrimidine-4-carboxamide.
Prepared according to the procedure described for example 2 from 2-(2,6-difluoro-phenyl)-5-hydroxy-1-methyl-6-oxo-1,6-dihydro-pyrimidine-4-carboxylic acid ethyl ester (31 mg, 0.1 mmol) and 2-methylthiobenzylamine (77 mg, 0.5 mmol). The title product was obtained as an off-white solid (34.2 mg, 82% yield). 1HNMR (500 MHz, CDCl3) δ: 12.37 (1H, s), 7.92 (1H, br s), 7.55–7.44 (1H, m), 7.33–7.25 (2H, m), 7.17–7.14 (1H, m), 7.04 (2H, dd, J=8.24, 7.32 Hz), 4.67 (2H, d, J=6.10 Hz), 3.40 (3H, s), 2.44 (3H, s). HRMS (ESI) calcd for C20H16F2N3O3S (M−H): 416.0880; found: 416.0879.

reactant | 2-(2,6-difluoro-phenyl)-5-hydroxy-1-methyl-6-oxo-1,6-dihydro-pyrimidine-4-carboxylic acid ethyl ester | 0.1 mmol, 31 mg | C(C)OC(=O)C=1N=C(N(C(C1O)=O)C)C1=C(C=CC=C1F)F | C14H12F2N2O4
reactant | 2-methylthiobenzylamine | 0.5 mmol, 77 mg | CSC1=C(CN)C=CC=C1 | C8H11NS
product | N-(2-(methylthio)benzyl)-2-(2,6-difluorophenyl)-5-hydroxy-1-methyl-6-oxo-1,6-dihydropyrimidine-4-carboxamide | CSC1=C(CNC(=O)C=2N=C(N(C(C2O)=O)C)C2=C(C=CC=C2F)F)C=CC=C1 | C20H17F2N3O3S
